US20010041709A1
To a solution of 1,3-dichloro-5-iodo-benzene (5.44 g, 20 mmol) in diethylamine (75 mL) was added PdCl2(PPh3)2 (280 mg, 0.4 mmol), trimethylsilylacetylene (2.36 g, 24.0 mmol) and copper(I)iodide (20 mg, 0.1 mmol). The reaction mixture was stirred at room temperature for 24 h, filtered and evaporated. The residue was purified by column chromatography using heptane:ethyl acetate (8:2) as eluent. The desired (3,5-dichloro-phenylethynyl)-trimethylsilane product was isolated in 4.85 g yield.

reactant | 1,3-dichloro-5-iodo-benzene | 20 mmol, 5.44 g | ClC1=CC(=CC(=C1)I)Cl | C6H3Cl2I
reactant | trimethylsilylacetylene | 24.0 mmol, 2.36 g | C[Si](C)(C)C#C | C5H10Si
solvent | diethylamine | 75 mL | C(C)NCC | C4H11N
catalyst | PdCl2(PPh3)2 | 0.4 mmol, 280 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 0.1 mmol, 20 mg | [Cu]I
product | (3,5-dichloro-phenylethynyl)-trimethylsilane | ClC=1C=C(C=C(C1)Cl)C#C[Si](C)(C)C | C11H12Cl2Si
